US06528653B2
A solution of (Z)-5,6-dihydro-5-oxo-4-[(1H-pyrrol-2-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxylic acid (30 mg, 0.12 mmol), 1-hydroxy-benzotriazole (18 mg, 0.13 mmol), propylamine (11 μl, 0.13 mmol), 1-(3-dimethoxyaminopropyl)-3-ethylcarbodiimide hydrochloride (25 mg, 0.13 mmol) and diisopropylethylamine (23 μl, 0.13 mmol) in dimethylformamide (1 ml) was stirred at room temperature for 3 hours then diluted with ethyl acetate and washed with 2M hydrochloric acid, saturated sodium bicarbonate and water. The resulting solution was dried over magnesium sulfate and evaporated to dryness. The residue was triturated with water/isopropyl alcohol to give 14 mg of (Z)-5,6-dihydro-5-oxo-N-propyl-4-[(1H-pyrrol-2-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxamide as an orange solid. MS(ES): m/e 302 [M+H].

reactant | (Z)-5,6-dihydro-5-oxo-4-[(1H-pyrrol-2-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxylic acid | 0.12 mmol, 30 mg | O=C1\C(\C2=C(N1)SC(=C2)C(=O)O)=C/C=2NC=CC2 | C12H8N2O3S
reactant | 1-hydroxy-benzotriazole | 0.13 mmol, 18 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | propylamine | 0.13 mmol, 11 μl | C(CC)N | C3H9N
reactant | 1-(3-dimethoxyaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.13 mmol, 25 mg | Cl.CON(CCCN=C=NCC)OC
reactant | diisopropylethylamine | 0.13 mmol, 23 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-5,6-dihydro-5-oxo-N-propyl-4-[(1H-pyrrol-2-yl)methylene]-4H-thieno[2,3-b]pyrrole-2-carboxamide | 14 mg | O=C1\C(\C2=C(N1)SC(=C2)C(=O)NCCC)=C/C=2NC=CC2 | C15H15N3O2S
